US04447441
A solution of 5-(3-nitropyrazol-1-yl)valeronitrile (0.2 g.) in concentrated sulphuric acid (1 ml.) was kept at 20° for 19 hours. The mixture was diluted with water (4 ml.), basified to pH 10 with 10.8 N sodium hydroxide and extracted with EtOAc (3×5 ml.). The extracts were dried (MgSO4) and evaporated in vacuo to a white solid which was recrystallised from ethanol to give 5-(3-nitropyrazol-1-yl)valeramide, m.p. 129°-131°.

reactant | 5-(3-nitropyrazol-1-yl)valeronitrile | 0.2 g | [N+](=O)([O-])C1=NN(C=C1)CCCCC#N | C8H10N4O2
reactant | sodium hydroxide | 10.8 N | [OH-].[Na+]
solvent | sulphuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 4 ml | O | H2O
product | 5-(3-nitropyrazol-1-yl)valeramide | [N+](=O)([O-])C1=NN(C=C1)CCCCC(=O)N | C8H12N4O3
